US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-4,5,6,8-tetrahydrofuro[2,3-c]azepin-7-yl)-6-phenylhexan-1-one
To a solution of 0.216 g (0.694 mmol) of 1-(4,5,6,8-tetrahydrofuro[2,3-c]azepin-7-yl)-6-phenylhexan-1-one in 20 ml of acetic acid, 75 mg (0.83 mmol) of 50% aqueous dimethylamine and 68 mg (0.83 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 1-(4,5,6,8-tetrahydrofuro[2,3-c]azepin-7-yl)-6-phenylhexan-1-one | 0.694 mmol, 0.216 g | O1C=CC2=C1CN(CCC2)C(CCCCCC2=CC=CC=C2)=O | C20H25NO2
reactant | dimethylamine | 0.83 mmol, 75 mg | CNC | C2H7N
reactant | formaldehyde | 0.83 mmol, 68 mg | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-4,5,6,8-tetrahydrofuro[2,3-c]azepin-7-yl)-6-phenylhexan-1-one | CN(C)CC1=CC2=C(CN(CCC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C23H32N2O2
